US06825190B2
Step B: N-(4-{3-[3-(2,5-Dimethoxy-pyrimidin-4-yl)-phenyl]-benzo[c]isoxazol-5-yl}-pyrimidin-2-yl)-acetamide
A flask was charged with N-{4-[3-(3-bromophenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-yl}-acetamide (100 mg, 0.272 mmol), cesium carbonate (97.7 mg, 0.328 mmol), and 2,5-dimethoxypyrimidine-6-boronic acid (55.0 mg, 0.3 mmol). The flask was evacuated and back-filled with nitrogen 5-7 times before adding 5 mL of degassed p-dioxane and 1 mL of degassed DMF. To this stirring solution/suspension was added, 125 μL of a 10% w/v benzene solution of tri-tertbutylphosphine followed by the addition of Pd2(dba)3 (25 mg, 0.0272 mmol) slurred in 1 mL of degassed DMF. The reaction was stirred under nitrogen atmosphere, at 80° C. Reaction was followed by HPLC and deemed to be complete in 4 hours. The reaction mixture was suction filtered hot through a pad of diatomaceous earth and washed the precipitate with DMF and acetonitrile. The filtrate was reduced to an oil under reduced pressure and the crude material purified via HPLC utilizing acetonitrile/water/TFA as the eluent. The material was isolated as a bright yellow powder (15 mg, 13% yield). 1H NMR (500 MHz DMSO-d6) δ 8.93 (s, 1H) 8.6 (s, 1H), 8.31 (s, 1H), 8.29 (d, 1H), 8.25 (d, 1H), 8.07 (d, 1H), 7.87 (d, 1H), 7.81 (d, 1H), 7.77 (m, 1H), 4.02 (2 close sing, 6H) in ppm. LC-MS (ES+) m/e=469 (M+H)

reactant | N-{4-[3-(3-bromophenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-yl}-acetamide | 0.272 mmol, 100 mg | BrC=1C=C(C=CC1)C1=C2C(=NO1)C=CC(=C2)C2=NC(=NC=C2)NC(C)=O | C19H13BrN4O2
reactant | cesium carbonate | 0.328 mmol, 97.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,5-dimethoxypyrimidine-6-boronic acid | 0.3 mmol, 55.0 mg | COC1=NC(=C(C=N1)OC)B(O)O | C6H9BN2O4
reactant | tri-tertbutylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.0272 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-{3-[3-(2,5-Dimethoxy-pyrimidin-4-yl)-phenyl]-benzo[c]isoxazol-5-yl}-pyrimidin-2-yl)-acetamide | 15 mg, 13% yield | COC1=NC=C(C(=N1)C=1C=C(C=CC1)C1=C2C(=NO1)C=CC(=C2)C2=NC(=NC=C2)NC(C)=O)OC | C25H20N6O4
